US08754207B2
Preparation of 1,1-dimethoxy-1,2,3,4-tetrahydronaphthalene
In a round bottom flask, (10 g) 1-tetralone in 20 ml methanol, 15 ml (2 equiv.) trimethyl orthoformate was taken and the mixture was stirred at room temperature. 0.2 ml hexafluoro phosphoric acid (catalytic amount) was added and the mixture was refluxed for 5.5 hrs. The mixture was then cooled at 25-30° C. After completion of reaction dilute the reaction mass by adding 10% NaHCO3 solution and extract with ethyl acetate. The organic layer was washed with NaHCO3 solution. Dry it by adding sodium sulfate, concentrate it on rotavapour to give dark brown colored oily product.

reactant | 1-tetralone | 10 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | trimethyl orthoformate | 15 ml, 2 equiv. | C(OC)(OC)OC | C4H10O3
reactant | hexafluoro phosphoric acid | 0.2 ml | F[P-](F)(F)(F)(F)F.[H+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1,1-dimethoxy-1,2,3,4-tetrahydronaphthalene | COC1(CCCC2=CC=CC=C12)OC | C12H16O2
